US05889026
(RS)-4-Benzyl-1-[3-(4-benzyloxy-phenoxy)-2-hydroxy-propyl]-piperidin-4-ol
The title compound was prepared from (RS)-1-chloro-3-[4-(benzyloxy)phenoxy]-2-propanol and 4-benzyl-4-hydroxy-piperidine.

reactant | (RS)-1-chloro-3-[4-(benzyloxy)phenoxy]-2-propanol | ClCC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)O | C16H17ClO3
reactant | 4-benzyl-4-hydroxy-piperidine | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
product | (RS)-4-Benzyl-1-[3-(4-benzyloxy-phenoxy)-2-hydroxy-propyl]-piperidin-4-ol | C(C1=CC=CC=C1)C1(CCN(CC1)CC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)O | C28H33NO4
